US06028080
e) 3-(Dimethylaminophenylmethyl)phenylacetyl chloride
1.5 g of 3-(dimethylaminophenylmethyl)phenylacetic acid are heated at reflux temperature for 1/2 an hour in 15 ml of thionyl chloride with stirring. Thionyl chloride not consumed in the reaction is distilled off. The residue is taken up in toluene and the solvent is distilled again.

reactant | 3-(dimethylaminophenylmethyl)phenylacetic acid | 1.5 g | CN(C)C(C=1C=C(C=CC1)CC(=O)O)C1=CC=CC=C1 | C17H19NO2
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-(Dimethylaminophenylmethyl)phenylacetyl chloride | CN(C)C(C=1C=C(C=CC1)CC(=O)Cl)C1=CC=CC=C1 | C17H18ClNO
